US08242104B2
Methyl 9-(1-isopropyl-1H-pyrazol-5-yl)-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine-3-carboxylate
A mixture of 1-isopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (117.1 mg, 0.4958 mmol), methyl 10-iodo-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine-3-carboxylate (92.0 mg, 0.248 mmol), [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (20.24 mg, 0.02479 mmol) and 1.0 M of Potassium acetate in water (0.49 mL) in 1,2-Dimethoxyethane (5.0 mL, 48 mmol) was degassed. The reaction was microwaved on 200 watts, 140° C. for 40 minutes. The reaction mixture was filtered, washed with DME, mixed with water and extracted with EtOAc. Combined organic extracts were washed with 1% aq NaOH to remove a phenolic byproduct, then 5% aq citric acid, water, brine, dried over Na2SO4 and concentrated in vacuum. The residue was purified on 4 g silica column, eluting with 60-70% of EtOAc in heptane. Yield 21 mg. MS (ESI+): 354.2.

reactant | 1-isopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.4958 mmol, 117.1 mg | C(C)(C)N1N=CC=C1B1OC(C(O1)(C)C)(C)C | C12H21BN2O2
reactant | methyl 10-iodo-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine-3-carboxylate | 0.248 mmol, 92.0 mg | IC1=CN=C2N1C1=C(OCC2)C=C(C=N1)C(=O)OC | C12H10IN3O3
reactant | dichloromethane | 0.02479 mmol, 20.24 mg | ClCCl | CH2Cl2
reactant | Potassium acetate | 1.0 M | C(C)(=O)[O-].[K+]
reactant | 1,2-Dimethoxyethane | 48 mmol, 5.0 mL | COCCOC | C4H10O2
solvent | water | 0.49 mL | O | H2O
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl 9-(1-isopropyl-1H-pyrazol-5-yl)-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine-3-carboxylate | C(C)(C)N1N=CC=C1C=1N=C2N(C3=C(OCC2)C=C(C=N3)C(=O)OC)C1 | C18H19N5O3
